Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
bilateral leg weakness 
 
Major Surgical or Invasive Procedure:
EMG ___

 
History of Present Illness:
Ms. ___ is a very pleasant ___ right-handed woman
with a history of eating disorder, diabetes, prior alcohol
dependence, hypothyroidism, who presents with gradually 
worsening
bilateral lower extremity weakness.

The history is obtained from the patient.  The history starts in
about ___ of this year.  She reports that one day, she was
walking on the beach, and at the end of the, she was walking
back, she felt that her left ankle was weak, and she had trouble
lifting up her foot.  This is associated with pain in the calf. 
Initially, she did not think much of it, and decided not to seek
further medical attention.  However, she had persistent 
weakness,
which progressed to what appeared to be more of a foot drop, and
she therefore presented to urgent care several times where she
had plain films of the ankle which were negative.  She reported
ongoing cramping and muscle pain in this leg, which did not over
about a month or so, progressed onto the right leg as well.  She
has similar symptoms of pain in her right calf as well as
weakness in the right foot.  She did not have difficulty 
climbing
stairs at first, but has noticed that progressively this has
become the case. Does not have difficulty combing her hair or
other strong evidence of a myopathic pattern of weakness. About 
a
month ago, she began to notice some mild weakness in the arms as
well, which were only noticeable when she was trying to use her
arms to get up out of her bed or from a sitting position.  She
does not think she has had any issues with opening cans or using
small objects with her hands.  She does have some pain in her
hand, but not her joints.  She has not noticed any joint
swelling.

In addition, she has had intermittent tingling in the soles of
her feet and her toes as well as the tips of her fingers
bilaterally, which started after the onset of the weakness.  She
has not noticed any numbness. She described this as a more 
distal
pattern, without radiation down from her shoulder or hip. She
also has had "muscle twitching" in her legs first then her arms,
which she has occasionally seen. She has not had any bowel or
bladder issues during this time.  She does have mild stress
incontinence.  

She did have a tick bite earlier this ___, but workup for 
Lyme
according to her was negative.  She grew up in ___ and has
been exposed to ticks multiple times, but has not that much of
them, and has never noticed a rash and has never been treated 
for
Lyme disease according to her.

This morning, she was getting things out of the trunk of her 
car,
when she lost her balance due to her feet weakness, and she fell
backwards and hit her head, without loss of consciousness.  She
currently has mild soft tissue tenderness in the back of her
scalp where she may contact with the ground, but denies any neck
pain from this.

Of note, she has seen her primary care physician about this
issue, especially when the plain films from the urgent care were
unremarkable.  Her PCP initially thought that due to the 
swelling
in the legs as well as cramping, that there may be some kind of
vascular issue, so she reportedly underwent an ABI which was
apparently unremarkable.  She was then subsequently referred to 
a
neurologist down in ___, Dr. ___, who initially
obtained a lumbar spine MRI without contrast, which found minor
arthritis only.  He conducted an EMG several weeks ago in 
___
which showed abnormalities in the legs and the arms, but it was
unclear what these abnormalities are with no report available 
for
review.  He did send her for a lumbar puncture, which she
underwent 4 days ago, which was within normal limits.  Of note,
her gait has been progressively worsening, to the point now she
requires a cane for stability.
 
Otherwise on neurologic review of systems, she denies any
headaches, diplopia, shortness of breath or easy fatigability,
significant muscle atrophy, weakness other than described above,
changes in speech, dysphonia, dysphagia. No lightheadedness on
position changes. She also denies rash, fevers, night sweats. 
She does have about 100 pound weight loss over the past year or
so, which was completely intentional given her history of an
eating disorder described as a compulsive eating behavior.

 
Past Medical History:
-Diabetes mellitus, which was treated with metformin, when she
had significant issues with weight, although according to her,
since the weight loss she has no longer needed any medication
-Hypothyroidism, previously on Synthroid, since normalized and
off of medications
-Alcohol dependence, with binge drinking for about ___ years,
sober for the past ___ years
-Compulsive eating disorder, for which she sees therapy, and has
been able to lose 100 pounds over the past year as above
- +PPD, unclear origin, status post treatment with INH many 
years
ago
-Tremors, likely essential
-History of LFT abnormalities, ?NAFLD (unclear)
-Malignancy screening: last mammogram/colonscopy about ___ years
ago, normal
 
Social History:
___
Family History:
No history of inherited polyneuropathies.  Both
her father and paternal grandmother had tremor which on further
questioning appears to be essential tremor.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
============================
Vitals: T 97.7  P 78  BP 167/74  RR 19  97% RA 
General:  NAD, obese
HEENT: posterior occiput tenderness to palpation, no
oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes. Can count to 31 on
single exhaled breath.
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, bilateral edema R>L up to knees. Mildly
increased arch size on the right, likely more due to atrophic
changes.

Neurologic Examination:
- Mental status: She is alert, oriented.  She is attentive, able
to name months of the year backwards without hesitation.  Has
intact recent memory, knows that the ___ Sox are playing their
fourth game today.  Language is fluent.

- Cranial nerves: Pupils are equally reactive, 4-3 mm
bilaterally. Smooth pursuit is preserved.  On saccadic testing,
she has occasional hypometric saccades but no limitations in  
eye
movements.  Her face is symmetric.  Facial sensation is intact 
to
pinprick bilaterally.  Palate elevates symmetrically.  There are
no tongue fasciculations or atrophy.  There is no dysarthria.

- Motor: Grossly, there is no significant muscle wasting.  No
fasciculations were observed.  No tremor at rest, however, there
is a coarse, right slightly greater than left but present in
bilateral hands ___ Hz tremor which is most prominent on
finger-nose-finger as well as with posture.  Rapid alternating
movements are intact with no evidence of bradykinesia.  She
develops mild rigidity with augmentation maneuvers in her left
greater than right arm.  There is occasional vocal tremor.  Tone
is normal to slightly decreased at the ankles.
There was no fatigability after 40 deltoid pumps.
Neck flexion 4, neck extension 4-
  [___]
L   4     5    5    5    ___-   5     4+  2    5    1
R   4     5    5    5    ___-   5     4+  3    5    2
In addition to above, thigh ABductors were full, ADductors were
slightly weak. Ankle inversion notable for 3 on the right, 2 on
the left. Ankle eversion 4 on the right and 3 on the left. There
was atrophy of the EDB bilaterally.
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  3+    2+     3+      3+       1
 R  3+    2+     3+      3+       1  
Plantar response flexor bilaterally, no ankle clonus. Positive
crossed adductors bilaterally, negative ___ sign. 

- Sensory: Distal pinprick testing revealed reduction with left
worse than the right, involving the fingers up to her palms.  
The
right side was described as about 80% of normal, the left side
with describes about 50% of normal.  Proprioception of the thumb
bilaterally was intact.  In the lower extremities, there was
right greater than left distal decrease to pinprick to about 70%
of normal, up to upper shin on the right and ankle on the left. 
Proprioception was preserved bilaterally.  However, vibration 
was
markedly asymmetric, with the right at 14 seconds and left at 4
seconds.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Intention tremor as above. Good speed and intact
cadence with rapid alternating movements.

- Gait: Has mild difficulty climbing out of bed but is able to 
do
so without assistance.  Walks with a cane with a slightly high
steppage gait.

Discharge Physical Exam 
==================
PHYSICAL EXAMINATION
24 HR Data (last updated ___ @ 829)
    Temp: 97.6 (Tm 98.1), BP: 143/69 (126-149/66-79), HR: 69
(60-74), RR: 20 (___), O2 sat: 98% (95-98), O2 delivery: Ra  

General:  NAD 
HEENT: no oropharyngeal lesions, MMM
___: Warm and well perfused.
Pulmonary: No increased work of breathing.
Abdomen: Soft, ND
Extremities: Warm, bilateral non pitting edema R>L up to knees.

Neurologic Examination:
- Mental status: She is alert, oriented.  She is attentive to
interview.  Has intact recent memory, Language is fluent.

- Cranial nerves: Pupils equal, round and reactive. EOMI, no
nystagmus. Her face is symmetric.  Facial sensation is intact to
light touch,  Palate elevates symmetrically.  There are no 
tongue
fasciculations or atrophy.  There is no dysarthria. 

- Motor: Motor: Grossly, there is no significant muscle wasting. 
 No
fasciculations were observed.  No tremor at rest, however, there
is mild postural tremor.  
Neck flexion 4, neck extension 4
  [___]
L   5      5      5       5      4      5    4-   5          4+  
  1      5      0
R   5      5      5       5      4      5    5-   5         5-   
   3     5      1

Toe flexion L 4, R 4+ 
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      3+       1
 R  2+    2+     2+      3+       1  
Plantar response flexor bilaterally, no ankle clonus. Positive
crossed adductors bilaterally, negative ___ sign. 

- Sensory: light touch intact throughout. Proprioception intact
throughout.

- Coordination: FNF adequate

- Gait: deferred

 
Pertinent Results:
Admission Labs 
=============
___ 06:31PM BLOOD WBC-6.4 RBC-4.24 Hgb-12.3 Hct-36.9 MCV-87 
MCH-29.0 MCHC-33.3 RDW-12.1 RDWSD-38.7 Plt ___
___ 06:31PM BLOOD Glucose-93 UreaN-11 Creat-0.6 Na-144 
K-4.2 Cl-107 HCO3-25 AnGap-12
___ 06:13AM BLOOD ALT-18 AST-19 LD(LDH)-195 CK(CPK)-136 
AlkPhos-58 TotBili-0.5
___ 06:13AM BLOOD TotProt-7.0 Albumin-4.0 Globuln-3.0 
Calcium-9.8 Phos-4.3 Mg-2.1

Important Interval Labs 
=================
___ 06:13AM BLOOD VitB12-278
___ 06:13AM BLOOD %HbA1c-5.6 eAG-114
___ 06:13AM BLOOD TSH-7.5*
___ 08:58AM BLOOD Free T4-1.1
___ 06:13AM BLOOD RheuFac-<10 ___ Titer-1:40* 
CRP-6.0*
___ 06:13AM BLOOD PEP-NO SPECIFI IgA-316
___ 12:50PM BLOOD HIV Ab-NEG

___ 06:13
SED RATE
 
___                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          6                   < OR = 30 mm/h 
   

HVY MTL (WHLE BLD NVY/EDTA)
 
___                          Result              Reference 
Range/Units
ARSENIC, BLOOD                <3                  <23 mcg/L
 
 
___                          Result              Reference 
Range/Units
MERCURY, BLOOD                <4                  <=10 mcg/L
 
 
___                          Result              Reference 
Range/Units
LEAD, BLOOD                   <1                  <5 mcg/dL
 

___ 06:13  RO & ___
 
___                          Result              Reference 
Range/Units
SJOGREN'S ANTIBODY (SS-A)     <1.0 NEG            <1.0 NEG AI
SJOGREN'S ANTIBODY (SS-B)     <1.0 NEG            <1.0 NEG AI

ANGIOTENSIN 1 - CONVERTING ___
 
___                          Result              Reference 
Range/Units
ANGIOTENSIN-1-CONVERTING      46                  ___ U/L
ENZYME                                  

___ 6:13 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN ___ (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

___ 12:50 pm Blood (LYME)

                            **FINAL REPORT ___

   Lyme IgG (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 

   Lyme IgM (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Rang

Studies 
=======
EMG ___ 
Directed examination revealed bilateral lower extremity 
iliopsoas ___
strength, left tibialis anterior ___ (cannot achieve neutral 
position) right
tibialis anterior ___, left ankle inversion/eversion ___, right
inversion/eversion 4+/5, left extensor hallucis longus (___) 
___, right ___
___, bilateral extensor digitorum brevis (EDB) ___, abductor 
pollicis brevis
(ABB) ___. Sensory examination demonstrated intact pinprick, 
joint position
sense and vibration throughout.
 
FINDINGS:
Motor nerve conduction studies (NCSs) of the right median and 
ulnar nerves
were normal. Of note, there was no evdience of marked 
facilitation of the
ulnar motor response following 10 seconds of maximal 
contraction.
 
Motor NCSs of the left deep peroneal nerve demonstrated normal 
distal latency,
markedly reduced response amplitude and mildly reduced 
conduction velocities.
 
Comparitive distal right deep peroneal motor NCS demonstrated 
normal distal
latency and severely reduced response amplitude.
 
Motor NCSs of the left common peroneal nerve demonstrated 
markedly reduced
response amplitude, normal distal latency, and mildly reduced 
conduction
velocity.
 
Motor NCSs of the left tibial nerve demonstrated mildly 
prolonged distal
latency, markedly reduced response amplitude, and mildly reduced 
conduction
velocity.
 
Comparitive distal right tibial motor NCS demonstrated normal 
distal latency
and markedly reduced response amplitude.
 
Sensory NCSs of the right median and ulnar nerves were normal.
 
Sensory NCSs of the left sural and superficial peroneal nerves 
were normal.
 
Concentric needle electromyography (EMG) of the right C5-T1 was 
performed.
Mild chronic reinnervation with and occasional fasciculation 
potentials were
seen in first dorsal interosseous. Mildly polyphasic motor units 
were seen in
flexor carpi radialis. THere was mild chronic reinnervation and 
mild
ongoing denervation was seen in biceps and deltoid. Occasional 
fasiculation
potentials were seen in triceps.
 
Concentric needle EMG was performed in selected muscles 
representing the left
L2-S1 myotomes. THere was severe ongoing denervation and poor 
activation of
motor unitis in tibialis anterior; while distal motor units 
could be
appreciated, the ongoing dennervation prevented adequate 
characterization.
Mild chronic reinnervation and moderate ongoing denervation with 
moderately
reduced motor unit recruitment was seen in gastrocnemius. Mild 
chronic
reinnervation and mild ongoing denervation with slightly reduced
recruitment was seen in vastus lateralis. EMG of biceps femoris 
long head
revealed mildly polyphasic motor units and occasional 
fasiculation potentials.
There was mild, chronic reinnervation in tensor fascia ___.
 
EMG examination of the left mid thoracic paraspinal muscles 
demonstrated
occasional fasiculation potentials.
 
Please see EMG data sheet in OMR for detailed muscle and nerve 
data.
 
IMPRESSION:
Abnormal study. There is electrophysiologic evidence for a 
generalized,
chronic and ongoing neurogenic process affecting motor fibers. 
These findings,
together with the clinical history and exam, raise the 
possibility of a
disorder of motor neurons or their axons. There is no evidence 
for a
generalized myopathic process. Limited testing was without 
evidence for a pre-
synaptic disorder of neuromuscular junction transmission.
 

___ MRI C and T spine w/ and w/o 

CERVICAL:
There is mild reversal of the cervical lordosis.  Vertebral body 
height and
alignment is otherwise preserved.  There is mild multilevel 
degenerative disc
disease with grossly preserved disc space heights.  Bone marrow 
signal
intensity is within normal limits.   There is no abnormal 
enhancement after
contrast administration.
 
At C2-C3, there is no disc herniation, spinal canal stenosis or 
neural
foraminal narrowing.
 
At C3-C4, there is a shallow disc bulge, facet joint arthropathy 
and
uncovertebral hypertrophy, no spinal canal stenosis or 
significant neural
foraminal narrowing.
 
At C4-C5, there is a central disc protrusion with remodeling of 
the ventral
cord but no cord signal abnormality, facet joint arthropathy and 
uncovertebral
hypertrophy, moderate spinal canal stenosis, no significant 
neural foraminal
stenosis.
 
At C5-C6, there is a shallow disc bulge, facet joint arthropathy 
and
uncovertebral hypertrophy, no spinal canal stenosis, mild 
bilateral neural
foraminal narrowing.
 
At C6-C7, there is a disc bulge, facet joint arthropathy and 
uncovertebral
hypertrophy, mild spinal canal stenosis, mild bilateral neural 
foraminal
narrowing.  Small bilateral perineural cysts are seen (series 7, 
image 27).
 
At C7-T1, there is no disc herniation, spinal canal stenosis or 
neural
foraminal narrowing.  There are small bilateral perineural 
cysts.  Series 7,
image 30).
 
THORACIC:
Bilateral perineural cysts are noted at T1-T2, it'll perineural 
cyst is noted
on the right at T6-T7 series 12, image 27).  Bilateral 
perineural cysts are
seen at T7-T8, T8-T9, and T9-T10 levels.
Vertebral body height and alignment is preserved.  There is mild 
multilevel
degenerative disc disease with mild disc space height loss.  
Bone marrow
signal intensity is within normal limits.  There is no abnormal 
enhancement
after contrast administration.
 
There is no evidence of spinal canal or neural foraminal 
narrowing.
 
OTHER FINDINGS: 
 
Incidental note is made of a partially empty sella.  There is a 
subcentimeter,
well-circumscribed cystic lesion within the right lymphoid 
tissue at the base
of the tongue, likely representing a small adenoidal cyst.  Low 
signal
intensity in the gallbladder is suggestive of gallstone (series 
13, image 26),
correlation with abdominal ultrasound is recommended.
 
IMPRESSION:
 
 
1. Degenerative changes of the cervical spine, most pronounced 
at C4-C5 where
there is moderate spinal canal stenosis secondary to a central 
disc protrusion
with remodeling of the ventral cord but no cord signal 
abnormality.
2. Very mild degenerative changes of the thoracic spine without 
disc
herniation, severe spinal canal stenosis or significant neural 
foraminal
narrowing.
 
RECOMMENDATION(S):  Low signal intensity in the gallbladder is 
suggestive of
gallstone (series 13, image 26), correlation with abdominal 
ultrasound is
recommended.

 
Brief Hospital Course:
___ woman presenting with 4 months of progressive 
weakness involving LEs and neck muscles w/ associated sensory 
symptoms, possible ALS vs other etiology.

# Progressive lower extremity weakness: An extensive workup was 
sent and was largely negative with some studies were pending at 
time of discharge. She had a repeat EMG which showed evidence of 
generalized chronic and ongoing neurogenic process affecting the 
motor fibers most suggestive of motor neuron disease such as 
ALS. There is no evidence of a neuromuscular junction disorder. 
Pattern of weakness with fasciculations and lower motor neuron 
signs with hyperreflexia was concerning for a diagnosis of ALS 
though she did not meet criteria for upper motor neuron signs 
rostral to lower motor neuron signs. Therefore a C and T spine 
MRI were obtained and showed degenerative changes with central 
canal stenosis most pronounced at C4-C5 but without cord signal 
change. She was started on Riluzole at time of discharge. She 
will need LFTs checked in 1 month. 

# Endocrine: TSH mildly elevated, free T4 normal. Patient should 
have TFTs rechecked by PCP as an outpatient. 

Transitional Issues 
====================
[]Follow-up with neurology
[]Follow up in ___ clinic in two weeks, will call patient with 
appointment 
[]Orthotics for foot brace: ___ and Prosthetics 
___. 
[]Please recheck TFTs in 1 week to ensure stability
[]Please recheck LFTs in 1 month (___) 
[]Patient started on Riluzole 
[]Patient given prescription for outpatient ___ 
[] Low signal intensity of gallbladder seen on MRI suggestive of 
gallstone, recommend correlation with abdominal ultrasound 
[] MAG, SGPG AB, Ach R antibodies, Paraneoplastic, GM1, Vit B6, 
and ACE were pending at discharge 

#Contact: ___ 
___: significant other 
Phone number: ___ 
Cell phone: ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  riluzole 50 mg oral Daily 
RX *riluzole 50 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Multivitamins 1 TAB PO DAILY  
3.AFO
bilateral carbon blue rocker AFO 
ICD: 335.20

4.Outpatient Lab Work
AST, ALT, Alk phos, Tbili, albumin 
ICD9: 335.20

___, MD 
___
___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
===================
ALS 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at ___! 

Why were you admitted? 
You were having more weakness in your legs. 

What happened while you were here? 
You had imaging that showed you have some degenerative changes 
in your spine but not enough to cause your symptoms. You had lab 
work done to evaluate your weakness. You also had an EMG that 
showed diagnosis of likely ALS. 

What should you do when you get home? 
You should start taking riluzole 
You should get braces with orthotics at ___ and 
Prosthetics ___
You will hear from ___ clinic to set up appointment in two weeks 

You also were given prescription for outpatient ___ 
You should get your labs re-checked in 1 months (___) 

All the best, 
Your Neurology Care Team 
 
Followup Instructions:
___